* ----------------------------------------------------------------------------------------------------
.LIB cap_mim_new
* ----------------------------------------------------------------------------------------------------

* ----------------------------------------------------------------------------------------------------
* OPTION-A [3LM]
* ----------------------------------------------------------------------------------------------------

*/ -------------------------------------------------------------------------------------
*/ MIM Capacitor (1.5fF/um2) subcircuit model for GF's 0.18 Analog CMOS process
*/--------------------------------------------------------------------------------------
.subckt cap_mim_1f5_m2m3_noshield 1 2  c_length=l c_width=w dtemp=0 par=1
.param
+ c_cox='1.47e-3*mim_corner_1p5fF'
+ c_capsw='3.79e-10*mim_corner_1p5fF'
+ c_tnom=25
+ c_tc1=4.0604E-05
+ c_tc2=-6.90E-08
+ c_vcr1=-4.5152E-05
+ c_vcr2=9.748E-06
+ c_area='c_length*c_width'
+ c_peri='2*(c_length+c_width)'
+ c_c0='(c_cox*c_area+c_capsw*c_peri) * (1+mc_c_cox_1p5fF)'
* + c_c0='(c_cox*c_area+c_capsw*c_peri)*(1+c_tc1*(temper+dtemp-c_tnom)+c_tc2*(temper+dtemp-c_tnom)*(temper+dtemp-c_tnom))'

*/ model for capacitance
.MODEL cap_mim_1f5_m2m3_noshield_model C 
+ cap=c_c0 
+ tc1=c_tc1 
+ tc2=c_tc2
+ tnom=c_tnom

* c_cap 1 2 c='c_c0*(1+ c_vcr1*v(1, 2)+c_vcr2*v(1,2)*v(1,2) )*(1+mc_c_cox_1p5fF)'
c_cap 1 2 cap_mim_1f5_m2m3_noshield_model dtemp=dtemp

.ends cap_mim_1f5_m2m3_noshield
*/ -------------------------------------------------------------------------------------
*/ MIM Capacitor (1fF/um2) subcircuit model for GF's 0.18 Analog CMOS process
*/--------------------------------------------------------------------------------------
.subckt cap_mim_1f0_m2m3_noshield 1 2  c_length=l c_width=w dtemp=0 par=1
.param
+ c_cox='0.987e-3*mim_corner_1p0fF'
+ c_capsw='3.3e-10*mim_corner_1p0fF'
+ c_tnom=25
+ c_tc1=1.302e-5
+ c_tc2=-4.93e-9
+ c_vcr1=6.079e-6
+ c_vcr2=1.268e-6
+ c_area='c_length*c_width'
+ c_peri='2*(c_length+c_width)'
+ c_c0='(c_cox*c_area+c_capsw*c_peri) * (1+mc_c_cox_1p0fF)'
* + c_c0='(c_cox*c_area+c_capsw*c_peri)*(1 + c_tc1*(temper+dtemp-c_tnom) + c_tc2*(temper+dtemp-c_tnom)*(temper+dtemp-c_tnom))'

*/ model for capacitance
.MODEL cap_mim_1f0_m2m3_noshield_model C 
+ cap=c_c0 
+ tc1=c_tc1 
+ tc2=c_tc2
+ tnom=c_tnom

* c_cap 1 2 c='c_c0*(1+ c_vcr1*v(1, 2)+c_vcr2*v(1,2)*v(1,2) )*(1+mc_c_cox_1p0fF)'
c_cap 1 2 cap_mim_1f0_m2m3_noshield_model dtemp=dtemp

.ends cap_mim_1f0_m2m3_noshield
*/ -------------------------------------------------------------------------------------
*/ MIM Capacitor (2fF/um2) subcircuit model for GLOBALFOUNDRIES 0.18 Analog CMOS process M2-M3
*/--------------------------------------------------------------------------------------
.subckt cap_mim_2f0_m2m3_noshield  1 2  c_length=l  c_width=w dtemp=0 par=1
.param gleak='9.51e-10/5*10000'
.param c_cox='1.99e-3*mim_corner_2p0fF'
.param c_capsw='2.383e-10*mim_corner_2p0fF'
.param c_vcr1='0+(c_width>5u||c_length>5u)*8.742e-6+(c_width<=5u||c_length<=5u)*(-81e-6)'
.param c_vcr2='0+(c_width>5u||c_length>5u)*9.188e-6+(c_width<=5u||c_length<=5u)*(16.7e-6)'

.param c_tnom=25
.param c_tc1=1.46e-5
.param c_tc2=-5.55e-8
.param c_AREA='c_length*c_width'
.param c_PERI='2*(c_length+c_width)'

* .param c_c0='(c_cox*c_AREA+c_capsw*c_PERI)*(1+c_tc1*(temper +dtemp -c_tnom)+c_tc2*(temper+dtemp-c_tnom)*(temper+dtemp-c_tnom))'
.param c_c0='(c_cox*c_area+c_capsw*c_peri) * (1+mc_c_cox_2p0fF)'

*/ model for capacitance
.MODEL cap_mim_2f0_m2m3_noshield_model C 
+ cap=c_c0 
+ tc1=c_tc1 
+ tc2=c_tc2
+ tnom=c_tnom

* c_cap 1 2 c='c_c0*(1+c_vcr1*v(1,2)+c_vcr2*v(1,2)*v(1,2))*(1+mc_c_cox_2p0fF)'
c_cap 1 2 cap_mim_2f0_m2m3_noshield_model dtemp=dtemp
r_leak 1 2 r='1/(gleak*c_AREA)' tc1=c_tc1 tc2=c_tc2 dtemp=dtemp
.ends cap_mim_2f0_m2m3_noshield

* ----------------------------------------------------------------------------------------------------
* OPTION-B [4LM]
* ----------------------------------------------------------------------------------------------------

*/ -------------------------------------------------------------------------------------
*/ MIM Capacitor (1.5fF/um2) subcircuit model for GF's 0.18 Analog CMOS process
*/--------------------------------------------------------------------------------------
.subckt cap_mim_1f5_m3m4_noshield 1 2  c_length=l c_width=w dtemp=0 par=1
.param
+ c_cox='1.47e-3*mim_corner_1p5fF'
+ c_capsw='3.79e-10*mim_corner_1p5fF'
+ c_tnom=25
+ c_tc1=4.0604E-05
+ c_tc2=-6.90E-08
+ c_vcr1=-4.5152E-05
+ c_vcr2=9.748E-06
+ c_area='c_length*c_width'
+ c_peri='2*(c_length+c_width)'
+ c_c0='(c_cox*c_area+c_capsw*c_peri) *(1+mc_c_cox_1p5fF)'
* + c_c0='(c_cox*c_area+c_capsw*c_peri)*(1+c_tc1*(temper+dtemp-c_tnom)+c_tc2*(temper+dtemp-c_tnom)*(temper+dtemp-c_tnom))'

*/ model for capacitance
.MODEL cap_mim_1f5_m3m4_noshield_model C 
+ cap=c_c0 
+ tc1=c_tc1 
+ tc2=c_tc2
+ tnom=c_tnom

* c_cap 1 2 c='c_c0*(1+ c_vcr1*v(1, 2)+c_vcr2*v(1,2)*v(1,2) )*(1+mc_c_cox_1p5fF)'
c_cap 1 2 cap_mim_1f5_m3m4_noshield_model dtemp=dtemp

.ends cap_mim_1f5_m3m4_noshield
*/ -------------------------------------------------------------------------------------
*/ MIM Capacitor (1fF/um2) subcircuit model for GF's 0.18 Analog CMOS process
*/--------------------------------------------------------------------------------------
.subckt cap_mim_1f0_m3m4_noshield 1 2  c_length=l c_width=w dtemp=0 par=1
.param
+ c_cox='0.987e-3*mim_corner_1p0fF'
+ c_capsw='3.3e-10*mim_corner_1p0fF'
+ c_tnom=25
+ c_tc1=1.302e-5
+ c_tc2=-4.93e-9
+ c_vcr1=6.079e-6
+ c_vcr2=1.268e-6
+ c_area='c_length*c_width'
+ c_peri='2*(c_length+c_width)'
+ c_c0='(c_cox*c_area+c_capsw*c_peri)* (1+mc_c_cox_1p0fF)'
* + c_c0='(c_cox*c_area+c_capsw*c_peri)*(1+c_tc1*(temper+dtemp-c_tnom)+c_tc2*(temper+dtemp-c_tnom)*(temper+dtemp-c_tnom))'

*/ model for capacitance
.MODEL cap_mim_1f0_m3m4_noshield_model C 
+ cap=c_c0 
+ tc1=c_tc1 
+ tc2=c_tc2
+ tnom=c_tnom

* c_cap 1 2 c='c_c0*(1+ c_vcr1*v(1, 2)+c_vcr2*v(1,2)*v(1,2) )*(1+mc_c_cox_1p0fF)'
c_cap 1 2 cap_mim_1f0_m3m4_noshield_model dtemp=dtemp

.ends cap_mim_1f0_m3m4_noshield
*/ -------------------------------------------------------------------------------------
*/ MIM Capacitor (2fF/um2) subcircuit model for GLOBALFOUNDRIES 0.18 Analog CMOS process M2-M3
*/--------------------------------------------------------------------------------------
.subckt cap_mim_2f0_m3m4_noshield  1 2  c_length=l  c_width=w dtemp=0 par=1
.param gleak='9.51e-10/5*10000'
.param c_cox='1.99e-3*mim_corner_2p0fF'
.param c_capsw='2.383e-10*mim_corner_2p0fF'
.param c_vcr1='0+(c_width>5u||c_length>5u)*8.742e-6+(c_width<=5u||c_length<=5u)*(-81e-6)'
.param c_vcr2='0+(c_width>5u||c_length>5u)*9.188e-6+(c_width<=5u||c_length<=5u)*(16.7e-6)'

.param c_tnom=25
.param c_tc1=1.46e-5
.param c_tc2=-5.55e-8
.param c_AREA='c_length*c_width'
.param c_PERI='2*(c_length+c_width)'

* .param c_c0='(c_cox*c_AREA+c_capsw*c_PERI)*(1+c_tc1*(temper +dtemp -c_tnom)+c_tc2*(temper+dtemp-c_tnom)*(temper+dtemp-c_tnom))'
.param c_c0='(c_cox*c_area+c_capsw*c_peri) * (1+mc_c_cox_2p0fF)'

*/ model for capacitance
.MODEL cap_mim_2f0_m3m4_noshield_model C 
+ cap=c_c0 
+ tc1=c_tc1 
+ tc2=c_tc2
+ tnom=c_tnom

* c_cap 1 2 c='c_c0*(1+c_vcr1*v(1,2)+c_vcr2*v(1,2)*v(1,2))*(1+mc_c_cox_2p0fF)'
c_cap 1 2 cap_mim_2f0_m3m4_noshield_model dtemp=dtemp
r_leak 1 2 r='1/(gleak*c_AREA)' tc1=c_tc1 tc2=c_tc2 dtemp=dtemp
.ends cap_mim_2f0_m3m4_noshield

* ----------------------------------------------------------------------------------------------------
* OPTION-B [5LM]
* ----------------------------------------------------------------------------------------------------

*/ -------------------------------------------------------------------------------------
*/ MIM Capacitor (1.5fF/um2) subcircuit model for GF's 0.18 Analog CMOS process
*/--------------------------------------------------------------------------------------
.subckt cap_mim_1f5_m4m5_noshield 1 2  c_length=l c_width=w dtemp=0 par=1
.param
+ c_cox='1.47e-3*mim_corner_1p5fF'
+ c_capsw='3.79e-10*mim_corner_1p5fF'
+ c_tnom=25
+ c_tc1=4.0604E-05
+ c_tc2=-6.90E-08
+ c_vcr1=-4.5152E-05
+ c_vcr2=9.748E-06
+ c_area='c_length*c_width'
+ c_peri='2*(c_length+c_width)'
* + c_c0='(c_cox*c_area+c_capsw*c_peri)*(1+c_tc1*(temper+dtemp-c_tnom)+c_tc2*(temper+dtemp-c_tnom)*(temper+dtemp-c_tnom))'
+ c_c0='(c_cox*c_area+c_capsw*c_peri) *(1+mc_c_cox_1p5fF)'

*/ model for capacitance
.MODEL cap_mim_1f5_m4m5_noshield_model C 
+ cap=c_c0 
+ tc1=c_tc1 
+ tc2=c_tc2
+ tnom=c_tnom

* c_cap 1 2 c='c_c0*(1+ c_vcr1*v(1, 2)+c_vcr2*v(1,2)*v(1,2) )*(1+mc_c_cox_1p5fF)'
c_cap 1 2 cap_mim_1f5_m4m5_noshield_model dtemp=dtemp

.ends cap_mim_1f5_m4m5_noshield

*/ -------------------------------------------------------------------------------------
*/ MIM Capacitor (1fF/um2) subcircuit model for GF's 0.18 Analog CMOS process
*/--------------------------------------------------------------------------------------
.subckt cap_mim_1f0_m4m5_noshield 1 2  c_length=l c_width=w dtemp=0 par=1
.param
+ c_cox='0.987e-3*mim_corner_1p0fF'
+ c_capsw='3.3e-10*mim_corner_1p0fF'
+ c_tnom=25
+ c_tc1=1.302e-5
+ c_tc2=-4.93e-9
+ c_vcr1=6.079e-6
+ c_vcr2=1.268e-6
+ c_area='c_length*c_width'
+ c_peri='2*(c_length+c_width)'
* + c_c0='(c_cox*c_area+c_capsw*c_peri)*(1+c_tc1*(temper+dtemp-c_tnom)+c_tc2*(temper+dtemp-c_tnom)*(temper+dtemp-c_tnom))'
+ c_c0='(c_cox*c_area+c_capsw*c_peri) *(1+mc_c_cox_1p0fF)'

*/ model for capacitance
.MODEL cap_mim_1f0_m4m5_noshield_model C 
+ cap=c_c0 
+ tc1=c_tc1 
+ tc2=c_tc2
+ tnom=c_tnom

* c_cap 1 2 c='c_c0*(1+ c_vcr1*v(1, 2)+c_vcr2*v(1,2)*v(1,2) )*(1+mc_c_cox_1p0fF)'
c_cap 1 2 cap_mim_1f0_m4m5_noshield_model dtemp=dtemp

.ends cap_mim_1f0_m4m5_noshield

*/ -------------------------------------------------------------------------------------
*/ MIM Capacitor (2fF/um2) subcircuit model for GLOBALFOUNDRIES 0.18 Analog CMOS process M2-M3
*/--------------------------------------------------------------------------------------
.subckt cap_mim_2f0_m4m5_noshield  1 2  c_length=l  c_width=w dtemp=0 par=1
.param gleak='9.51e-10/5*10000'
.param c_cox='1.99e-3*mim_corner_2p0fF'
.param c_capsw='2.383e-10*mim_corner_2p0fF'
.param c_vcr1='0+(c_width>5u||c_length>5u)*8.742e-6+(c_width<=5u||c_length<=5u)*(-81e-6)'
.param c_vcr2='0+(c_width>5u||c_length>5u)*9.188e-6+(c_width<=5u||c_length<=5u)*(16.7e-6)'

.param c_tnom=25
.param c_tc1=1.46e-5
.param c_tc2=-5.55e-8
.param c_AREA='c_length*c_width'
.param c_PERI='2*(c_length+c_width)'

* .param c_c0='(c_cox*c_AREA+c_capsw*c_PERI)*(1+c_tc1*(temper +dtemp -c_tnom)+c_tc2*(temper+dtemp-c_tnom)*(temper+dtemp-c_tnom))'
.param c_c0='(c_cox*c_area+c_capsw*c_peri) * (1+mc_c_cox_2p0fF)'

*/ model for capacitance
.MODEL cap_mim_2f0_m4m5_noshield_model C 
+ cap=c_c0 
+ tc1=c_tc1 
+ tc2=c_tc2
+ tnom=c_tnom

* c_cap 1 2 c='c_c0*(1+c_vcr1*v(1,2)+c_vcr2*v(1,2)*v(1,2))*(1+mc_c_cox_2p0fF)'
c_cap 1 2 cap_mim_2f0_m4m5_noshield_model dtemp=dtemp
r_leak 1 2 r='1/(gleak*c_AREA)' tc1=c_tc1 tc2=c_tc2 dtemp=dtemp

.ends cap_mim_2f0_m4m5_noshield

* ----------------------------------------------------------------------------------------------------
* OPTION-B [6LM]
* ----------------------------------------------------------------------------------------------------

*/ -------------------------------------------------------------------------------------
*/ MIM Capacitor (1.5fF/um2) subcircuit model for GF's 0.18 Analog CMOS process
*/--------------------------------------------------------------------------------------
.subckt cap_mim_1f5_m5m6_noshield 1 2  c_length=l c_width=w dtemp=0 par=1
.param
+ c_cox='1.47e-3*mim_corner_1p5fF'
+ c_capsw='3.79e-10*mim_corner_1p5fF'
+ c_tnom=25
+ c_tc1=4.0604E-05
+ c_tc2=-6.90E-08
+ c_vcr1=-4.5152E-05
+ c_vcr2=9.748E-06
+ c_area='c_length*c_width'
+ c_peri='2*(c_length+c_width)'
* + c_c0='(c_cox*c_area+c_capsw*c_peri)*(1+c_tc1*(temper+dtemp-c_tnom)+c_tc2*(temper+dtemp-c_tnom)*(temper+dtemp-c_tnom))'
+ c_c0='(c_cox*c_area+c_capsw*c_peri) *(1+mc_c_cox_1p5fF)'

*/ model for capacitance
.MODEL cap_mim_1f5_m5m6_noshield_model C 
+ cap=c_c0 
+ tc1=c_tc1 
+ tc2=c_tc2
+ tnom=c_tnom

* c_cap 1 2 c='c_c0*(1+ c_vcr1*v(1, 2)+c_vcr2*v(1,2)*v(1,2) )*(1+mc_c_cox_1p5fF)'
c_cap 1 2 cap_mim_1f5_m5m6_noshield_model dtemp=dtemp

.ends cap_mim_1f5_m5m6_noshield

*/ -------------------------------------------------------------------------------------
*/ MIM Capacitor (1fF/um2) subcircuit model for GF's 0.18 Analog CMOS process
*/--------------------------------------------------------------------------------------
.subckt cap_mim_1f0_m5m6_noshield 1 2  c_length=l c_width=w dtemp=0 par=1
.param
+ c_cox='0.987e-3*mim_corner_1p0fF'
+ c_capsw='3.3e-10*mim_corner_1p0fF'
+ c_tnom=25
+ c_tc1=1.302e-5
+ c_tc2=-4.93e-9
+ c_vcr1=6.079e-6
+ c_vcr2=1.268e-6
+ c_area='c_length*c_width'
+ c_peri='2*(c_length+c_width)'
* + c_c0='(c_cox*c_area+c_capsw*c_peri)*(1+c_tc1*(temper+dtemp-c_tnom)+c_tc2*(temper+dtemp-c_tnom)*(temper+dtemp-c_tnom))'
+ c_c0='(c_cox*c_area+c_capsw*c_peri) *(1+mc_c_cox_1p0fF)'

*/ model for capacitance
.MODEL cap_mim_1f0_m5m6_noshield_model C 
+ cap=c_c0 
+ tc1=c_tc1 
+ tc2=c_tc2
+ tnom=c_tnom

* c_cap 1 2 c='c_c0*(1+ c_vcr1*v(1, 2)+c_vcr2*v(1,2)*v(1,2) )*(1+mc_c_cox_1p0fF)'
c_cap 1 2 cap_mim_1f0_m5m6_noshield_model dtemp=dtemp

.ends cap_mim_1f0_m5m6_noshield

*/ -------------------------------------------------------------------------------------
*/ MIM Capacitor (2fF/um2) subcircuit model for GLOBALFOUNDRIES 0.18 Analog CMOS process M2-M3
*/--------------------------------------------------------------------------------------
.subckt cap_mim_2f0_m5m6_noshield  1 2  c_length=l  c_width=w dtemp=0 par=1
.param gleak='9.51e-10/5*10000'
.param c_cox='1.99e-3*mim_corner_2p0fF'
.param c_capsw='2.383e-10*mim_corner_2p0fF'
.param c_vcr1='0+(c_width>5u||c_length>5u)*8.742e-6+(c_width<=5u||c_length<=5u)*(-81e-6)'
.param c_vcr2='0+(c_width>5u||c_length>5u)*9.188e-6+(c_width<=5u||c_length<=5u)*(16.7e-6)'

.param c_tnom=25
.param c_tc1=1.46e-5
.param c_tc2=-5.55e-8
.param c_AREA='c_length*c_width'
.param c_PERI='2*(c_length+c_width)'

*.param c_c0='(c_cox*c_AREA+c_capsw*c_PERI)*(1+c_tc1*(temper +dtemp -c_tnom)+c_tc2*(temper+dtemp-c_tnom)*(temper+dtemp-c_tnom))'
.param c_c0='(c_cox*c_area+c_capsw*c_peri) * (1+mc_c_cox_2p0fF)'

*/ model for capacitance
.MODEL cap_mim_2f0_m5m6_noshield_model C 
+ cap=c_c0 
+ tc1=c_tc1 
+ tc2=c_tc2
+ tnom=c_tnom

* c_cap 1 2 c='c_c0*(1+c_vcr1*v(1,2)+c_vcr2*v(1,2)*v(1,2))*(1+mc_c_cox_2p0fF)'
c_cap 1 2 cap_mim_2f0_m5m6_noshield_model dtemp=dtemp
r_leak 1 2 r='1/(gleak*c_AREA)' tc1=c_tc1 tc2=c_tc2 dtemp=dtemp

.ends cap_mim_2f0_m5m6_noshield

.ENDL cap_mim_new
* ----------------------------------------------------------------------------------------------------